US07273877B2
Step B: Preparation of 4-(2-fluoro-4-methylanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide
Conc. NH3 solution (0.5 ml) was added to 2,3,4,5,6-pentafluorophenyl 4-(2-fluoro-4-methylanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate (0.33 g, 0.6 mmol) in THF (10 ml) and the solution stirred at RT for 2 h. The solvent was removed under reduced pressure and the residue dissolved in 5% EtOAc/MeOH. The organic phase was washed with water, brine, dried (Na2SO4) and concentrated to give crude 4-(2-fluoro-4-methylanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinearboxamide which was then recrystallised (EtOAc/Hexane) (0.11 g, 84%); m.p. (EtOAc/Hexane) 285-288° C. 1H NMR [400 MHz, (CD3)2SO] δ 10.14 (s, 1H), 8.32 (s, 1H), 7.86 (br s, 1H), 7.43 (br s, 1H), 7.31 (t, J=8.4 Hz), 1H), 7.16 (dd, J=11.8, 1.1 Hz, 1H), 7.05 (d, J=8.2 Hz, 1H), 5.38 (d, J=1.1 Hz, 1H), 3.34 (s, 3H), 2.32 (s, 3H). LCMS (ACPI−) 274 (100%). Anal. Calcd for C14H14FN3O2: C, 61.1; H, 5.1; N, 15.3. Found C, 61.0; H, 5.2; N, 15.4.

reactant | NH3 | 0.5 ml | N | H3N
reactant | 2,3,4,5,6-pentafluorophenyl 4-(2-fluoro-4-methylanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate | 0.6 mmol, 0.33 g | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=CC(=C1)C | C20H12F6N2O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(2-fluoro-4-methylanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)N)C=CC(=C1)C | C14H14FN3O2
